US07521442B2
4-Fluorophenyl magnesium bromide (6.0 mL, 1.0 solution in THF, 6 mmol) was added dropwise to a solution of 3-oxo-azetidine-1-carboxylic acid t-butyl ester (514 mg, 3 mmol) in THF (10 mL) at 0° C. The reaction mixture was stirred at 0° C. for one hour. Water was added, and the mixture was acidified with 1 N HCl solution and then extracted with ether (2×30 mL). The organic layers were combined, dried (MgSO4) and concentrated to give a light yellow oil. This material was fractionated using preparative. HPLC. Homogeneous fractions were combined and concentrated to give the intermediate carbamate a colorless oil, (564 mg, 70% yield).

reactant | 4-Fluorophenyl magnesium bromide | 6 mmol, 6.0 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | 3-oxo-azetidine-1-carboxylic acid t-butyl ester | 3 mmol, 514 mg | C(C)(C)(C)OC(=O)N1CC(C1)=O | C8H13NO3
reactant | Water | O | H2O
reactant | HCl | 1 N | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | carbamate a | 564 mg, 70% yield | CCCCN(C)C(=O)OC1=CC=CC=C1 | C12H17NO2
